US08629271B2
b) Ethyl 2-cyclobutylthiazole-4-carboxylate
A solution of HCl (4M in 1,4-dioxane, 3.46 mL) was added to a solution of ethyl 2-(cyclobutanecarboxamido)-3-mercaptopropanoate (example 58, step a) (3.2 g) in ethanol (20 mL) and the resulting mixture stirred overnight. The solvent was evaporated and the residue azeotroped twice with toluene. The residue was redissolved in acetonitrile (50 mL), manganese dioxide (12 g) was added and the mixture heated at reflux overnight. The reaction was filtered through a pad of Celite which was then washed with MeCN (3×100 mL). The combined filtrate and washings were evaporated and the residue was purified by silica gel chromatography eluting with 9:1 isohexane:ethyl acetate. The fractions containing product were combined and evaporated to give the subtitled compound as a clear oil. Yield 0.48 g.

reactant | HCl | 4M, 3.46 mL | Cl | ClH
reactant | ethyl 2-(cyclobutanecarboxamido)-3-mercaptopropanoate | C1(CCC1)C(=O)NC(C(=O)OCC)CS | C10H17NO3S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 2-cyclobutylthiazole-4-carboxylate | C1(CCC1)C=1SC=C(N1)C(=O)OCC | C10H13NO2S
